US04111933
7.7 g (8.5 mmols) of lithium cobalt-phthalocyanine in 50 ml of methanol are stirred with 846 mg (3.0 mmols) of 2-bromoethoxycarbonyl-L-valine methyl ester for 2 hours at 20° C (end of the evolution of ethylene) and the mixture is worked up as described in Example 56. 300 mg (76%) of L-valine methyl ester are obtained. Boiling point10 = 53° C. [α]D25 = +42.2° (c = 0.7 in ethanol).

reactant | 2-bromoethoxycarbonyl-L-valine methyl ester | 3.0 mmols, 846 mg | COC([C@@H](NC(=O)OCCBr)C(C)C)=O | C9H16BrNO4
reactant | ethylene | C=C | C2H4
solvent | methanol | 50 ml | CO | CH4O
catalyst | lithium cobalt phthalocyanine | 8.5 mmols, 7.7 g | [Co].[Li].C=1C=CC=2C(C1)=C3NC2N=C4C=5C=CC=CC5C(=N4)N=C6C=7C=CC=CC7C(N6)=NC=8C=9C=CC=CC9C(=N3)N8
product | L-valine methyl ester | 300 mg, 76% | COC([C@@H](N)C(C)C)=O | C6H13NO2
